US07399759B2
2-Cyano-6-[2-(dimethylamino)ethylthio]pyrazine
2-Dimethylaminoethanethiol hydrochloride salt (1.46 g, 10.0 mmol) and sodium hydride (60% in oil, 0.88 g, 22.0 mmol) were added to THF (50 ml), and 2-chloro-6-cyanopyrazine (1.40 g, 10.0 mmol) was added thereto. The mixture was stirred at room temperature for 18 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from n-hexane-ethyl acetate to give the titled compound (1.00 g, 48%) as pale yellow crystals.

reactant | 2-Dimethylaminoethanethiol hydrochloride salt | 10.0 mmol, 1.46 g | Cl.CN(CCS)C
reactant | sodium hydride | 22.0 mmol, 0.88 g | [H-].[Na+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | 2-chloro-6-cyanopyrazine | 10.0 mmol, 1.40 g | ClC1=NC(=CN=C1)C#N | C5H2ClN3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyano-6-[2-(dimethylamino)ethylthio]pyrazine | 1.00 g, 48% | C(#N)C1=NC(=CN=C1)SCCN(C)C | C9H12N4S
